US03984397
To a solution of 2,2,2-trichloroethyl 2-methyl-2,3-methylene-6-[2-(1H-tetrazol-1-yl)acetamido]penam-3-carboxylate (0.91 g.) in a mixture of dimethylformamide (5 ml.) and acetic acid (1.5 ml.) was added zinc powder (1.2 g.) under ice-cooling, and the mixture was stirred for 1 hour. After the reaction, the reaction mixture was poured into a mixture of 2% hydrochloric acid saturated with sodium chloride (30 ml.) and ethyl acetate (50 ml.), extracted and the aqueous layer was further extracted with ethyl acetate (10 ml.). The combined ethyl acetate layer was washed with a saturated sodium chloride aqueous solution and dried over magnesium sulfate. After drying, residue obtained by distilling off the solvent under reduced pressure was crystallized by adding a small amount of ethyl acetate and the crystals were collected by filtration to give 2-methyl-2,3-methylene-6-[2-(1H-tetrazol-1-yl)acetamido]penam-3-carboxylic acid (0.45 g.), mp 167° to 170°C (dec.).

reactant | 2,2,2-trichloroethyl 2-methyl-2,3-methylene-6-[2-(1H-tetrazol-1-yl)acetamido]penam-3-carboxylate | 0.91 g | CC12S[C@H]3N(C1(C(=O)OCC(Cl)(Cl)Cl)C2)C(C3NC(CN3N=NN=C3)=O)=O | C13H13Cl3N6O4S
reactant | hydrochloric acid | Cl | ClH
reactant | sodium chloride | 30 ml | [Cl-].[Na+]
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 1.2 g | [Zn] | Zn
product | 2-methyl-2,3-methylene-6-[2-(1H-tetrazol-1-yl)acetamido]penam-3-carboxylic acid | 0.45 g | CC12S[C@H]3N(C1(C(=O)O)C2)C(C3NC(CN3N=NN=C3)=O)=O | C11H12N6O4S
